US07754727B2
B. (3S,4S)-4-Biphenyl-3-yl-3,4-dihydroxy-piperidine-1-carboxylic acid ethyl ester
To a stirred solution of AD-mix-α (20.13 g, 18.3 mmol) in tBuOH (120 mL) and H2O (120 mL) is added methansulfonamide (1.92 g, 19.6 mmol). The reaction mixture is cooled to 0° C. followed by addition of a solution of the title A compound, 4-biphenyl-3-yl-3,6,dihydro-2H-pyridine-1-carboxylic acid ethyl ester (4.1 g, 13.07 mmol) in tBuOH (10 mL) and H2O (10 mL). The reaction is stirred at 0° C. for 30 min and allowed to stir over the week end at room temperature. To the reaction mixture is added 18 g of Na2SO3 followed by stirring for 1 h before the addition of methylene chloride. The layers are separated and the aqueous one extracted 3 times with methylene chloride. The combined organic extracts are washed with a 2N sodium hydroxide solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by flash column chromatography (CH2Cl2/MeOH: 95/5) affords the desired product of (3S,4S)-4-biphenyl-3-yl-3,4-dihydroxy-piperidine-1-carboxylic acid ethyl ester. TLC, Rt (CH2Cl2/MeOH: 95/5)=0.69. MS 339.9 [M−H]. Rf (HPLC, Nucleosil C18, 10:90-100:0 CH3CN/H2O+0.1% TFA within 5 min, then 100% CH3CN+0.1% TFA): 5.26 min.

reactant | AD-mix-α | 18.3 mmol, 20.13 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methansulfonamide | 19.6 mmol, 1.92 g | CS(=O)(=O)N | CH5NO2S
reactant | 4-biphenyl-3-yl-3,6,dihydro-2H-pyridine-1-carboxylic acid ethyl ester | 13.07 mmol, 4.1 g | C(C)OC(=O)N1CCC(=CC1)C=1C=C(C=CC1)C1=CC=CC=C1 | C20H21NO2
reactant | Na2SO3 | 18 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | tBuOH | 120 mL | CC(C)(C)O | C4H10O
reactant | tBuOH | 10 mL | CC(C)(C)O | C4H10O
solvent | H2O | 120 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (3S,4S)-4-biphenyl-3-yl-3,4-dihydroxy-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C[C@@H]([C@@](CC1)(O)C=1C=C(C=CC1)C1=CC=CC=C1)O | C20H23NO4
